Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old women with morbid obesity with 
several obesity-related complications (diabetes, hypertension, 
bilateral knee arthritis) who presented to the emergency room 
for evaluation of atypical chest pain. 

Has been having intermittent chest heaviness since ___. Only 
lasts for a few seconds, size is about the size of a quarter, 
located right at the bottom of the sternum, happens on most days 
of the week but not every day, trigger is unclear, 
non-radiating. No associated nausea, vomiting, dyspnea. Right 
now she is pain free. 

The most exertion she does is walking up to the third floor of 
her house, the pace at which she can go up the stairs is limited 
by her knees, and she never complains about chest pains or 
breathing with stairs. 

She has no personal history of stroke, heart attack, or other 
vascular disease. 

REVIEW OF SYSTEMS 
-She has had issues with reflux in the past (food trigger was 
peppers, worse with laying down). 
-Palpitations have also occurred in the past, which have been 
captured twice on Holtor monitor, but the results were 
unremarkable. -There is no history of sleep disorder, though she 
is told she snores and also sometimes stops breathing. 

 
Past Medical History:
-Morbid obesity 
-Diabetes 
-Hypertension 
-Osteoarthritis 
-Insomnia 
 
Social History:
___
Family History:
No history of heart attack, stroke, dialysis.
 
Physical Exam:
Vitals: 98.7 164/97 100 18 97 Ra 
Gen: well appearing, recounts medical history well 
Neck: JVP is just above clavicle while patient is nearly flat 
CV: Mild regular tachycardia, heart sounds distant but no 
obvious murmurs 
Chest: lungs clear bilaterally 
Abd: soft, NTND 
Ext: warm, no edema 

Patient was discharged upon arrival to the medical floor. 
 
Pertinent Results:
====================
LABS 
====================

___ 08:50PM BLOOD WBC-7.4 RBC-4.24 Hgb-13.2 Hct-40.8 MCV-96 
MCH-31.1 MCHC-32.4 RDW-13.4 RDWSD-47.4* Plt ___
___ 08:50PM BLOOD Neuts-49.8 ___ Monos-6.6 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-3.67 AbsLymp-3.04 AbsMono-0.49 
AbsEos-0.13 AbsBaso-0.04
___ 08:50PM BLOOD Plt ___
___ 02:57AM BLOOD D-Dimer-353
___ 08:50PM BLOOD Glucose-164* UreaN-16 Creat-0.7 Na-142 
K-4.3 Cl-99 HCO3-30 AnGap-13
___ 05:15AM BLOOD cTropnT-<0.01
___ 08:50PM BLOOD cTropnT-<0.01

=====================
IMAGING
=====================

CXR - no acute process 

 
Brief Hospital Course:
========================
BRIEF SUMMARY 
========================

___ is a ___ year old women with morbid obesity with 
several obesity-related complications (diabetes, hypertension, 
bilateral knee arthritis) who presented to the emergency room 
for evaluation of atypical chest pain. 

Her chest pain description was atypical (occurring at rest but 
not with walking up stairs, lasting only seconds, no other 
associated symptoms). Her EKG had no changes or high risk 
features, serial troponin was negative, d dimer was negative, 
CXR was negative. 

Case discussed with Dr. ___ (Atrius cardiology) 
who felt like a nuclear stress test was needed for further risk 
stratification, but this could be obtained as an outpatient. 

=====================
TRANSITIONAL ISSUES 
=====================
[]Consider aspirin/statin for primary prevention
[]Consider sleep study for OHS/OSA (elevated bicarbonate on 
admission) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 2 CAP PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. meloxicam 15 mg oral DAILY 
4. Gabapentin 300 mg PO QAM 
5. Gabapentin 300 mg PO NOON 
6. Gabapentin 600 mg PO QHS 
7. Victoza 3-Pak (liraglutide) 1.8 mg subcutaneous DAILY 
8. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO QAM  
2.  Gabapentin 300 mg PO NOON  
3.  Gabapentin 600 mg PO QHS  
4.  Losartan Potassium 25 mg PO DAILY  
5.  meloxicam 15 mg oral DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Triamterene-HCTZ (37.5/25) 2 CAP PO DAILY  
8.  Victoza 3-Pak (liraglutide) 1.8 mg subcutaneous DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical chest pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
==========================================
WHY DID I COME TO THE HOSPITAL? 
==========================================

You needed an evaluation of chest pain 

==========================================
WHAT HAPPENED AT THE HOSPITAL? 
==========================================

You had blood testing, chest x ray, and EKGs peformed. We 
discussed you did not have evidence of a heart attack or a blood 
clot in the lung, but you need further testing - with a stress 
test -  to help determine the likelihood of any blockages of the 
arteries that supply the heart muscle with oxygen 

==================================================
WHAT NEEDS TO HAPPEN WHEN I LEAVE THE HOSPITAL? 
==================================================

-Continue taking all of your medications as you are 
-Have a stress test scheduled next week (you will be called to 
schedule this)
-Follow up will be determined by the results of the stress test 
 
Followup Instructions:
___